Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Pneumovax ___
 
Attending: ___.
 
Chief Complaint:
Rectal bleeding
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx of long standing MS on interferon and HTN recently
started on amlodipine presents with 1 week of mild crampy
abdominal pain and 2 days of BRBPR.
 
Patient developed mild intermittent lower crampy abdominal pain
one week prior to admission without associated symptoms. 2 days
PTA she had an isolated episode of chills and sweats without
fevers (max 98.5F) and mixed loose/soft brown bowel movements.
She increased her oral hydration and did not stop her normal
activities. Day PTA she felt "a little weak" and had continued
intermittent cramping abd pain with 6 expisodes of bright red
blood and mucousy bowel movements. She denied fevers, chills,
chest pain, palpitations, light headedness, dizziness, nausea,
emesis, hematemesis, hemoptysis, change in character or location
of her abdominal pain or rashes. Her bloody bowel movements were
improving with time. She had one bowel movement on the day of
admission with scant blood and mucous. She was advised to 
present
to the ED
 
ED COURSE:
She presented afebrile, HDS, sating well on RA.
Labs were notable for normal CBC with H/H at baseline, normal
coags and renal function, lactate was 0.9. 
Imaging was notable for CT Abd/Pel with contrast with
proctocolitis, small volume ascites, mildly dilated pancreatic
duct without obstructing mass and 3mm LLL pulm nodule.
 
She received 1L NS and was started on IV Cipro/Flagyl.
 
On admission patient is well appearing, denies fever, chills,
sweats, cough, sore throat, dysphagia, odynophagia, chest pain,
palpitations, light headedness or dizziness, edema, SOB,
hemoptysis, N/V/C, hematemesis, dysuria, frequency, hematuria,
rashes, numbness, tingling, focal weakness, falls.
 
 
Past Medical History:
- Multiple sclerosis, diagnosed ___ years ago, on weekly Avenox
injections
- HTN, anxiety/white coat component, recently started on
amlodipine (ABPM)
OCULAR MIGRAINES
VULVODYNIA
OSTEOPENIA   
H/O CHRONIC SINUSITIS   
H/O INFERTILITY
H/O ABNORMAL MAMMOGRAM 
 
Social History:
___
Family History:
No family history of GI bleeding, IBD, Colon cancer. Has an 
uncle
with gastric cancer.
 
Physical Exam:
ADMISSION EXAM
==============
VS:97.8 103/60 59 16 100% RA
GEN: WDWN thin female in NAD
HEENT: NC/AT, anicteric sclera, PERRL, EOMI, MOM, OP clear 
NECK: supple, non-tender, no JVD or LAD
CV: RRR, normal S1 loud S2, no M/R/G
PULM: NLB on RA, CTAB, no W/R/R
ABD: soft, flat, minimal tenderness to deep palpation LLQ, no
rebound/guarding, no HSM, NABS
GU: no Foley, no flank pain, no CVAT
EXT: cool, dry, no cyanosis or edema
SKIN: warm, dry no rashes or lesions
NEURO: A&O, CN II-XII intact, SILT, ___ strength BUE/BLE
 
DISCHARGE EXAM
==============
VS: 97.9 137/77 57 18 100% RA
GEN: WDWN thin female in NAD
HEENT: anicteric sclera, EOMI, MOM, OP clear 
NECK: supple, non-tender, no JVD or LAD
CV: RRR, normal S1 loud S2, no M/R/G
PULM: NLB on RA, CTAB, no W/R/R
ABD: soft, flat, non-tender, no rebound/guarding, no HSM, NABS
GU: no Foley, otherwise deferred
EXT: cool, dry, no cyanosis or edema
SKIN: warm, dry no rashes or lesions
NEURO: A&O, SILT, MAE
 
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:40AM BLOOD WBC-6.6 RBC-4.28 Hgb-13.2 Hct-40.1 MCV-94 
MCH-30.8 MCHC-32.9 RDW-12.1 RDWSD-41.4 Plt ___
___ 07:40AM BLOOD Neuts-66 Bands-0 Lymphs-18* Monos-11 
Eos-5 Baso-0 ___ Myelos-0 AbsNeut-4.36 AbsLymp-1.19* 
AbsMono-0.73 AbsEos-0.33 AbsBaso-0.00*
___ 07:40AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-2+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Ovalocy-1+ Burr-1+ 
Bite-OCCASIONAL Acantho-OCCASIONAL Ellipto-OCCASIONAL
___ 07:40AM BLOOD ___ PTT-28.4 ___
___ 07:40AM BLOOD Glucose-107* UreaN-10 Creat-0.8 Na-135 
K-4.0 Cl-98 HCO3-27 AnGap-14
___ 07:40AM BLOOD ALT-14 AST-20 LD(LDH)-225 AlkPhos-61 
TotBili-0.2
___ 07:58AM BLOOD Lactate-0.9
___ 10:50AM URINE Color-Straw Appear-Clear Sp ___
___ 10:50AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
 
PERINENT LABS
=============
___ 07:40AM BLOOD ALT-14 AST-20 LD(LDH)-225 AlkPhos-61 
TotBili-0.2
___ 07:40AM BLOOD Lipase-604*
___ 07:40AM BLOOD Albumin-4.0
___ 07:40AM BLOOD CRP-6.7*
 
REPORTS
=======
 
___ CT ABD/PELVIS W/CONTRAST (FINAL)
1. Sigmoiditis.  No fluid collection or free air. 
2. Trace ascites. 
3. Mildly prominent main pancreatic duct to 5 mm.  No 
obstructing lesion detected.  Consider follow-up outpatient MRCP 
in 1 month assess for any interval change. 
4. Incidental 3-mm left lower lobe pulmonary nodule.  If the 
patient is high risk, follow-up chest CT in 12 months; if low 
risk, no follow-up needed. 
  
RECOMMENDATION(S):  1.  Consider MRCP in 1 month to evaluate 
non-specific mild pancreatic duct dilation. 
2.  Dedicated chest CT in 12 months if the patient is high risk; 
otherwise, no follow-up for a 3-mm incidental left lower lobe 
pulmonary nodule. 
 
DISCHARGE LABS
==============
___ 06:55AM BLOOD WBC-5.2 RBC-3.89* Hgb-11.6 Hct-35.8 
MCV-92 MCH-29.8 MCHC-32.4 RDW-12.0 RDWSD-40.3 Plt ___
___ 06:55AM BLOOD Glucose-98 UreaN-9 Creat-0.7 Na-140 K-5.0 
Cl-106 HCO3-29 AnGap-___ with PMHx of long standing MS on interferon and HTN, 
recently started on amlodipine presents with 1 week of mild 
crampy abdominal pain and 2 days of BRBPR with sigmoiditis on 
imaging concerning for infectious process, now resolving on 
antibiotics. Patient's pain and bloody bowel movements resolved 
on CTX/Flagyl initially and was transitioned to Augmentin while 
inpatient. Discharged home to complete a ___T 
Abd/Pelvis notable for main pancreatic duct dilation without 
obstructing stone and elevated lipase. Recommend MRCP in one 
month. Incidental 3mm LLL pulmonary nodule found in imaged 
portion of chest. Patient is low risk as she is a never smoker 
with no recommended follow up of that nodule.

# Sigmoiditis, improved
Presented with crampy abdominal pain and BRBPR that was 
improving prior to admission. Started on IV Cipro and Flagyl in 
the ED after CT Abd/Pelvis showed distal descending colon 
hyperemia consistent with sigmoiditis. Inflammatory markers 
minimally elevated and LFTs/lipase WNL. EKG without evidence of 
arrhythmia making inflammatory and vascular etiologies less 
likely. Pain improved and bowel movements became less bloody. 
Transitioned to Augmentin BID ___. Tolerating regular diet and 
ambulating without adverse effect. H/H slightly decreased since 
admission but stable. Patient had only one loose bowel movement 
mixed with a small amount of red blood during admission. No 
stool sample was obtained. Discharged with PCP follow up to 
complete a 7 day course of antibiotics through ___ with 
Augmentin 875-125mg Q12H. Dr. ___ office contact to 
help facilitate GI follow up as well.

# HTN
Presented normotensive without tachycardia, orthostatics were 
negative. Home amlodipine was initially help in the setting of 
possible acute bleed. Had some low normal BPs into the 100s/70s. 
Home amlodipine was restarted at half dose 2.5mg QD prior to 
discharge. Patient instructed to keep taking this dose until 
follow up in ___ clinic, scheduled ___.

# Pancreatic duct dilation with elevated lipase
CT Abd/Pelvis showed a 5mm dilated main pancreatic duct without 
obstructing stone. No symptoms or imaging evidence of acute 
pancreatitis, no evidence of organ dysfunction, likely did not 
contributing to current presentation. MRCP was recommended in 1 
month. Dr. ___ contacted as above

# Pulmonary nodule
Incidentally found LLL 3mm pulmonary nodule. Radiology 
recommendations for low risk patients (patient is a never 
smoker) is no follow up. No other respiratory of heme symptoms.

CHRONIC

# MS, well controlled on weekly Avenox, last dose ___, did not 
receive and injections while inpatient

# Anxiety: stable mood, using home clonazepam infrequently, 
continued home clonazepam but patient did not require any doses.

# Occular migraines: stable, continued home Fioricet

TRANSITIONAL ISSUES
===================
- complete a 7 day course of Augmentin 875-125mg Q12H through 
___
- recommend MRCP in one month and follow up of elevated lipase
- recommend GI follow up for possible lower endoscopy 
- Radiology does not recommend follow up for low risk patients 
for the imaged 3mm LLL pulmonary nodule
- discharged on amlodipine 2.5mg (half previous home dose) until 
follow up in ___ clinic for BRBPR and low normal BPs during 
admission

CONTACT: ___ (___): ___
CODE: FULL (Confirmed)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. butalbital-acetaminophen-caff 50-325-40 mg oral QHS:PRN 
headache 
3. ClonazePAM 0.5-1 mg PO BID:PRN anxiety 
4. efinaconazole 10 % topical ASDIR apply to affected nails as 
directed 
5. Estrace (estradiol) 0.01 % (0.1 mg/gram) vaginal ASDIR apply 
a small amount externally as directed twice a week 
6. Avonex (with albumin) (interferon beta-1a (albumin)) 
uncertain  injection 1X/WEEK 

 
Discharge Medications:
1. ClonazePAM 0.5-1 mg PO BID:PRN anxiety 
2. Avonex (with albumin) (interferon beta-1a (albumin)) UNK UNK 
INJECTION 1X/WEEK (WE) 
3. butalbital-acetaminophen-caff 50-325-40 mg oral QHS:PRN 
headache 
4. efinaconazole 10 % topical ASDIR apply to affected nails as 
directed 
5. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*9 Tablet Refills:*0
6. amLODIPine 2.5 mg PO DAILY 
take half of your normal dose until follow up with hypertension 
clinic ___ 
7. Estradiol (estradiol) 0.01 % (0.1 mg/gram) VAGINAL ASDIR 
apply a small amount externally as directed twice a week 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Sigmoiditis
# Hypertension
# Pancreatic duct dilation
# Multiple Sclerosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

You were admitted with abdominal pain and rectal bleeding. Your 
symptoms improved with antibiotics. Your bleeding and pain 
improved and you are being discharged home to complete a 7 day 
course of antibiotics.

Since you had recent bleeding with lower blood pressures, you 
should continue to take half your home dose of amlodipine until 
you follow up in the hypertension clinic, scheduled for this 
week - take 2.5mg amlodipine until that appointment.

Studies during your admission showed an enlarged pancreatic duct 
which will likely require an MRI of your abdomen and follow up 
with a Gastroenterologist. We have contacted Dr. ___ office 
to facilitate an appointment. 

Please follow up with your PCP who can also facilitate follow up 
with a Gastroenterologist. 

As you recover please avoid dairy, fatty foods and high fiber 
foods under your symptoms are fully resolved.

If you develop fevers, chills, abdominal pain, nausea, vomiting, 
diarrhea, bloody stools, chest pain, light headedness or 
dizziness, please contact your doctor or return to the hospital 
immediately.

We wish you the best in health,

Your ___ Team
 
Followup Instructions:
___